US05624917
Potassium carbonate (9.95 g) was added to a solution of 2-mercaptopyrimidine (6.73 g) and 1,7-dibromoheptane (15.48 g) in N,N-dimethylformamide (85 ml). The mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), and then the solvent was distilled off under reduced pressure. The residual oil was subjected to column chromatography on silica gel and eluted with ethyl acetate-hexane (1:4, v/v) to obtain 2-(7-bromoheptylthio)pyrimidine (8.5 g) as an oil. This oil was dissolved in N,N-dimethylformamide (45 ml). Potassium phthalimide (5.44 g) was added to the solution, and the mixture was stirred at 100° C. for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4). The solvent was distilled off under reduced pressure to obtain N-[7-(2-pyrimidinylthio)heptyl]phthalimide (10.36 g, 48.6%) as an oil.

reactant | Potassium carbonate | 9.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercaptopyrimidine | 6.73 g | SC1=NC=CC=N1 | C4H4N2S
reactant | 1,7-dibromoheptane | 15.48 g | BrCCCCCCCBr | C7H14Br2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
product | 2-(7-bromoheptylthio)pyrimidine | 8.5 g | BrCCCCCCCSC1=NC=CC=N1 | C11H17BrN2S
